US06972288B1
4-[(3-Chloro-4-fluoro-phenyl)amino]-6-{[2-(diethoxyphosphoryl)-1-oxo-ethyl]amino}-7-cyclopropylmethoxy-quinazoline
137 mg (diethoxyphosphoryl)-acetic acid and 225 mg benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate are added subsequently to a solution of 200 mg 6-amino-4-[(3-chloro-4-fluoro-phenyl)amino]-7-cyclopropylmethoxy-quinazoline and 0.11 ml triethylamine in 1 ml of anhydrous N,N-dimethyl-formamide. The reaction mixture is stirred for one hour at room temperature, quenched with 10 ml of water, and extracted with ethyl acetate/methanol (10:1). The combined extracts are washed with water and brine, dried over magnesium sulfate, and concentrated in vacuo. The crude product is recrystallized from diethyl ether. Yield: 190 mg (64% of theory), Melting point: 185-187° C. Mass spectrum (ESI*): m/z=537, 539 [M+H]*

reactant | (diethoxyphosphoryl)-acetic acid | 137 mg | C(C)OP(=O)(OCC)CC(=O)O | C6H13O5P
reactant | benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 225 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 6-amino-4-[(3-chloro-4-fluoro-phenyl)amino]-7-cyclopropylmethoxy-quinazoline | 200 mg | NC=1C=C2C(=NC=NC2=CC1OCC1CC1)NC1=CC(=C(C=C1)F)Cl | C18H16ClFN4O
reactant | triethylamine | 0.11 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethyl-formamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-[(3-Chloro-4-fluoro-phenyl)amino]-6-{[2-(diethoxyphosphoryl)-1-oxo-ethyl]amino}-7-cyclopropylmethoxy-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(CP(=O)(OCC)OCC)=O)OCC1CC1 | C24H27ClFN4O5P
